US06008230
To a mixture of 2-tert-butoxycarbonyl-2,3-dihydro-6-nitro-1H-pyrazolo[4,3-c]quinolin-3-one (450 mg) and potassium carbonate (565 mg) in dimethylformamide was added methyl iodide (580 mg), and the mixture was stirred for 2 hours at 60° C. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (dichloromethane-ethyl acetate) to give 2-tert-butoxycarbonyl-2,3-dihydro-1-methyl-6-nitro-1H-pyrazolo[4,3-c]quinolin-3-one (114 mg).

reactant | 2-tert-butoxycarbonyl-2,3-dihydro-6-nitro-1H-pyrazolo[4,3-c]quinolin-3-one | 450 mg | C(C)(C)(C)OC(=O)N1NC2=C(C=NC=3C(=CC=CC23)[N+](=O)[O-])C1=O | C15H14N4O5
reactant | potassium carbonate | 565 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 580 mg | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-tert-butoxycarbonyl-2,3-dihydro-1-methyl-6-nitro-1H-pyrazolo[4,3-c]quinolin-3-one | 114 mg | C(C)(C)(C)OC(=O)N1N(C2=C(C=NC=3C(=CC=CC23)[N+](=O)[O-])C1=O)C | C16H16N4O5
